US03952017
7.8 g. of 1-(2-methyl-1,3-dioxolan-2-yl)-10,11-dihydro-5-(3-dimethylaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene are heated with 50 ml. of ethanol and 6 ml. of 25% ethanolic hydrochloric acid over a 21/2 hour period at reflux. Thereafter, the reaction mixture is concentrated under vacuum, dissolved in water, made alkaline with dilute sodium hydroxide and extracted with ether. The extract is washed with water, dried with sodium sulfate, filtered and evaporated whereby there is obtained 1-acetyl-10,11-dihydro-5-(3-dimethylaminopropylidene)-5H-dibenzo[a,d]cycloheptene as a yellow oil, whose NMR and IR spectrum are in agreement with their constitution. Through mass chromatography, it is determined that the product is a mixture of the geometric isomers α (30%) and β (70%).

reactant | 1-(2-methyl-1,3-dioxolan-2-yl)-10,11-dihydro-5-(3-dimethylaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene | CC1(OCCO1)C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)(O)CCCN(C)C | C24H31NO3
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-acetyl-10,11-dihydro-5-(3-dimethylaminopropylidene)-5H-dibenzo[a,d]cycloheptene | C(C)(=O)C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CCCN(C)C | C22H25NO
